US08871774B2
Formation (1R,3S)-ethyl 3-aminocyclohexanecarboxylate (18)
To a solution of (1R,3S)-ethyl 3-(benzyloxycarbonylamino)cyclohexane-carboxylate, 17, (14.0 g, 45.9 mmol) in ethanol (3 mL) was added Pd/C (wet, Degussa (2.4 g, 2.3 mmol). The mixture was evacuated and then stirred under atmosphere of nitrogen at room temperature overnight. The reaction mixture was filtered through a pad of celite and the resulting filtrate concentrated in vacuo to provide an oil that was used without further purification.

reactant | (1R,3S)-ethyl 3-(benzyloxycarbonylamino)cyclohexane-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@@H](CCC1)C(=O)OCC | C17H23NO4
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (1R,3S)-ethyl 3-aminocyclohexanecarboxylate | N[C@@H]1C[C@@H](CCC1)C(=O)OCC | C9H17NO2
